US09108934B2
(2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)amino]pentanoic Acid Ethoxycarbonyloxymethyl Ester
A solution of (2R,4R)-5-(3′-chlorobiphenyl-4-yl)-2-hydroxy-4-[(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)amino]pentanoic acid (253 mg, 0.5 mmol), chloromethyl ethyl carbonate (69 mg, 0.5 mmol), 2,6-lutidine (165 mg, 1.5 mmol) and NaI (150 mg, 1 mmol) in DMF (20 mL) was stirred for 15 hours at 50° C. The mixture was quenched with water (20 mL) and extracted with EtOAc (3×30 mL). The combined organic layers were collected and concentrated in vacuo. The residue was purified by column chromatography (petroleum ether/EtOAc=3:1) to yield the title compound as a white solid (13 mg). LC-MS: 608.8 [M+H]+. 1H NMR: (CDCl3, 400 MHz) δ 1.27 (t, J=8.0 Hz, 3H), 2.03-2.33 (m, 2H), 3.02-3.05 (m, 2H), 4.18 (q, J=8.0 Hz, 2H), 4.49 (br, 1H), 4.85 (br, 1H), 5.57-5.76 (m, 2H), 7.03 (d, J=12 Hz, 1H), 7.25-7.40 (m, 4H), 7.42-7.51 (m, 3H), 7.53-7.61 (m, 3H), 7.93 (d, J=8.0 Hz, 2H).

reactant | (2R,4R)-5-(3′-chlorobiphenyl-4-yl)-2-hydroxy-4-[(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)amino]pentanoic acid | 0.5 mmol, 253 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@H](C[C@H](C(=O)O)O)NC(=O)C1=NN(C(N1)=O)C1=CC=CC=C1 | C26H23ClN4O5
reactant | chloromethyl ethyl carbonate | 0.5 mmol, 69 mg | C(OCCl)(OCC)=O | C4H7ClO3
reactant | 2,6-lutidine | 1.5 mmol, 165 mg | N1=C(C=CC=C1C)C | C7H9N
reactant | NaI | 1 mmol, 150 mg | [Na+].[I-]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)amino]pentanoic Acid Ethoxycarbonyloxymethyl Ester | 13 mg | C(C)OC(=O)OCOC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)NC(=O)C1=NN(C(N1)=O)C1=CC=CC=C1)O)=O | C30H29ClN4O8
